US05304549
A solution of 2.95 ml of titanium tetrachloride in 8 ml of carbon tetrachloride was added dropwise while stirring under a nitrogen atmosphere to 50 ml of dry tetrahydrofuran at 0°. The resulting yellow suspension was treated with a solution of 2.45 g of 6-phthalimidohexan-1-al and 3.55 g of dibenzyl malonate in 40 ml of tetrahydrofuran and the mixture was stirred at 0° for 2 hours. A solution of 4.5 g of dry pyridine in 12 ml of dry tetrahydrofuran was added dropwise to give a blood-red suspension. The mixture was left to come to room temperature and was stirred for 18 hours while maintaining the nitrogen atmosphere. 200 ml of 2M sulfuric acid were added and the mixture was extracted four times with dichloromethane. The combined extracts were washed with sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel using ethyl acetate/n-hexane (1:2) for the elution to give 3.6 g of dibenzyl 2-(6-phthalimidohexylidene)malonate as a colorless oil.

reactant | 6-phthalimidohexan-1-al | 2.45 g | C1(C=2C(C(N1CCCCCC=O)=O)=CC=CC2)=O | C14H15NO3
reactant | dibenzyl malonate | 3.55 g | C(CC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C17H16O4
reactant | pyridine | 4.5 g | N1=CC=CC=C1 | C5H5N
reactant | sulfuric acid | 2M, 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | carbon tetrachloride | 8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
catalyst | titanium tetrachloride | 2.95 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | dibenzyl 2-(6-phthalimidohexylidene)malonate | 3.6 g | C1(C=2C(C(N1CCCCCC=C(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)=CC=CC2)=O | C31H29NO6
